US04902700
Synthesis of 2-(trans-3-aminostyryl)-5-methoxycarbonylbenzothiazole
To a solvent mixture of 50 ml of dioxane and 30 ml of methanol, 2.0 g of 5-methoxycarbonyl-2-(trans-3-nitrostyryl)benzothiazole was added and, under vigorous stirring, a solution of 0.37 g of calcium chloride in 55 ml of water and 9.8 g of zinc powder were added, followed by refluxing for 2 hours. After cooled to room temperature, the reaction mixture was filtered and the filtrate was concentrated under reduced pressure, and the solid residue formed was washed with toluene to give 1.4 g (yield 77%) of the title compound.

reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | methanol | 30 ml | CO | CH4O
reactant | 5-methoxycarbonyl-2-(trans-3-nitrostyryl)benzothiazole | 2.0 g | COC(=O)C=1C=CC2=C(N=C(S2)\C=C\C2=CC(=CC=C2)[N+](=O)[O-])C1 | C17H12N2O4S
reactant | calcium chloride | 0.37 g | [Cl-].[Ca+2].[Cl-]
solvent | water | 55 ml | O | H2O
catalyst | zinc | 9.8 g | [Zn] | Zn
product | 2-(trans-3-aminostyryl)-5-methoxycarbonylbenzothiazole | 1.4 g, yield 77% | NC=1C=C(/C=C/C=2SC3=C(N2)C=C(C=C3)C(=O)OC)C=CC1 | C17H14N2O2S
